US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and trans-2-phenyl-1-cyclopropanecarbonyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-(trans)-2-phenylcyclopropane-1-carboxamide as an off white solid, m.p. 77.0° C. 1H NMR (300 MHz, DMSO-d6) δ7.90 (dd, J=8.1, 1.2 Hz, 1H), 7.81 (dd, J=8.1, 1.2 Hz, 1H), 7.78 (s, 1H), 7.50 (dt, J=8.1, 1.5 Hz, 1H), 7.33-7.15 (m, 4H), 7.05-7.02 (m, 2H), 5.84 (broad s, 1H), 5.51 (s, 2H), 4.52 (t, J=7.2 Hz, 2H), 3.32 (q, J=6.6 Hz, 2H), 2.49-2.43 (m, 1H), 2.07-1.95 (m, 3H), 1.64-1.51 (m, 3H), 1.25-1.18 (m, 1H); IR (KBr) 3304, 3179, 2939, 1640, 1582, 1527, 1479, 1396, 1250, 755, 735, 689 cm−1; MS (EI) m/e 399.2059 (399.2059 calcd for C24H25N5O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-(trans)-2-phenylcyclopropane-1-carboxamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2 | C24H25N5O
